US05447954
±(3R*,5S*) 5-{6-[2,4-Bis(trifluoromethyl)phenyl]hexyl}-3-carboxymethyl-3-hydroxytetrahydrofuran-2-one
Dimethylsulphoxide (0,692 ml, 9.74 mmol) was injected dropwise into a stirred solution of oxalyl chloride (0,425 ml, 4.87 mmol) in dichloromethane (10 ml) at -78° under argon. After 2 min, a solution of ±5-(carbomethoxymethyl)-3-(5 -hydroxypentyl)-5-methoxycarbonyl-4,5-dihydroisoxazole (1.00 g, 3.48 mmol) in dichloromethane (5 ml) was added by cannula, and the mixture stirred for 30 min. Triethylamine (2.13 ml, 15.3 mmol) was injected, then the mixture allowed to warm to room temperature, poured into aqueous HCl, and extracted with dichloromethane. The extracts were washed with water, saturated aqueous NaCl, and dried (MgSO4). The solvent was removed under reduced pressure, and the crude aldehyde dried by evaporation of a toluene solution. Sodium hydride (60% oil suspension, 146 mg, 3.65 mmol) was washed with petroleum ether 40°-60° under argon, then heated with dimethylsulphoxide (5 ml) at 70-90° until all solid had dissolved. After cooling in a water bath, a solution of 2,4-bis(trifluoromethyl)benzyltriphenylphosphonium bromide (1.98 g, 3.48 mmol) in dimethylsulphoxide (15 ml) was added by cannula, and the mixture stirred at room temperature for 15 min. A solution of the crude aldehyde in dimethylsulphoxide (5 ml) was added, the mixture stirred for 20 h, then poured into aqueous HCl and extracted with ether. The extracts were washed with water, saturated aqueous NaCl, and dried (MgSO4). The solvent was removed under reduced pressure, and the residue purified by chromatography on silica gel (50-70% ether/petroleum ether 40°-60° ) to give the title compound (0.56 g, 33%) as a mixture of E and Z isomers.

reactant | oxalyl chloride | 4.87 mmol, 0,425 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(carbomethoxymethyl)-3-(5 -hydroxypentyl)-5-methoxycarbonyl-4,5-dihydroisoxazole | 3.48 mmol, 1.00 g | C(=O)(OC)CC1(CC(=NO1)CCCCCO)C(=O)OC | C13H21NO6
reactant | Triethylamine | 15.3 mmol, 2.13 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | Cl | ClH
reactant | Sodium hydride | 3.65 mmol, 146 mg | [H-].[Na+]
reactant | 2,4-bis(trifluoromethyl)benzyltriphenylphosphonium bromide | 3.48 mmol, 1.98 g | [Br-].FC(C1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)C(F)(F)F)(F)F
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dimethylsulphoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 5 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 5 ml | CS(=O)C | C2H6OS
solvent | Dimethylsulphoxide | 9.74 mmol, 0,692 ml | CS(=O)C | C2H6OS
product | (3R*,5S*) 5-{6-[2,4-Bis(trifluoromethyl)phenyl]hexyl}-3-carboxymethyl-3-hydroxytetrahydrofuran-2-one | 0.56 g, 33% | FC(C1=C(C=CC(=C1)C(F)(F)F)CCCCCC[C@H]1C[C@@](C(O1)=O)(O)CC(=O)O)(F)F | C20H22F6O5
